US05773448
5-Fluoro-1H-indol-2,3-dione (8.92 g) was dissolved in dimethylformamide (60 ml). Sodium hydride (60% dispersion in mineral oil, 3.08 g) was added in portions with stirring and cooling (ice-water bath) and the mixture was stirred until gas evolution ceased. 1-Bromo-2-chloroethane (5.4 ml, 9.3 g) was added dropwise. The mixture was stirred at room temperature for 24 hours and then quenched into water and extracted into chloroform. The combined organic phases were washed with water, dried (MgSO4), filtered and concentrated under reduced pressure. The resulting oil was purified by chromatography on silica gel, eluent chloroform, to give 1-(2-Chloroethyl)-5-fluoro-1H-indole-2,3-dione as a red solid.

reactant | 5-Fluoro-1H-indol-2,3-dione | 8.92 g | FC=1C=C2C(C(NC2=CC1)=O)=O | C8H4FNO2
reactant | Sodium hydride | 3.08 g | [H-].[Na+]
reactant | 1-Bromo-2-chloroethane | 5.4 ml, 9.3 g | BrCCCl | C2H4BrCl
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 1-(2-Chloroethyl)-5-fluoro-1H-indole-2,3-dione | ClCCN1C(C(C2=CC(=CC=C12)F)=O)=O | C10H7ClFNO2
